US20010021718A1
2-((1R)-1-{2-[(Benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-1,3-oxazole-4-carboxylic acid
A solution of ethyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-1,3-oxazole4-carboxylate (Preparation 64) (1.31 g, 2.96 mmol) in 1,4-dioxane:water (10 ml:5 ml) was treated with lithium hydroxide monohydrate (0.19 g, 4.44 mmol) and stirred in a cold water bath for 3.5 hours. The mixture was diluted with water (100 ml) and washed with ethyl acetate. The layers were separated and the aqueous layer was acidified with solid citric acid then extracted with ethyl acetate. The layers were separated and the organic layer was dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a white solid (0.75 g).

reactant | ethyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-1,3-oxazole4-carboxylate | 2.96 mmol, 1.31 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C(=O)OCC)=O | C25H34N2O5
reactant | lithium hydroxide monohydrate | 4.44 mmol, 0.19 g | O.[OH-].[Li+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-((1R)-1-{2-[(Benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-1,3-oxazole-4-carboxylic acid | 0.75 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C(=O)O)=O | C23H30N2O5
